US06100257
First, 17.24 g of 4-chlorophenylacetic acid was dissolved in 200 ml of ethanol, to which a catalytic amount of p-toluenesulfonic acid was added, and the mixture was heated under reflux for 10 hours. After completion of the reaction, the reaction mixture was cooled to room temperature and concentrated. The residue was poured into water and extracted with ethyl acetate, and the organic layer was dried and then concentrated. The residue was subjected to silica gel chromatography, which afforded 19.0 g of ethyl 4-chlorophenylacetate.

reactant | 4-chlorophenylacetic acid | 17.24 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | ethyl 4-chlorophenylacetate | 19.0 g | ClC1=CC=C(C=C1)CC(=O)OCC | C10H11ClO2
